US08372864B2
110 mg of N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl]-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxamide are dissolved in 8 cm3 of ether at a temperature close to 20° C. 0.5 cm3 of a 4M solution of hydrochloric acid in dioxane is added while stirring under argon. The reaction mixture precipitates. The precipitate is filtered under a slight vacuum, washed with 2 lots of 5 cm3 of ethyl ether then dried in a dessicator for 2 h. 80 mg of N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl]-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxamide hydrochloride (1:1) is obtained in the form of a white solid.

reactant | N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl]-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxamide | 110 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CNCC1=CC(=CC=C1)C(F)(F)F)O)NC(=O)C=1C=2CN(C(C2C=CC1)=O)C(CCC)CCC | C34H40F3N3O3
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 8 cm3 | CCOCC | C4H10O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl]-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxamide hydrochloride | 80 mg | Cl.C(C1=CC=CC=C1)[C@@H]([C@@H](CNCC1=CC(=CC=C1)C(F)(F)F)O)NC(=O)C=1C=2CN(C(C2C=CC1)=O)C(CCC)CCC | InChI=1S/C34H40F3N3O3.ClH/c1-3-10-26(11-4-2)40-22-29-27(16-9-17-28(29)33(40)43)32(42)39-30(19-23-12-6-5-7-13-23)31(41)21-38-20-24-14-8-15-25(18-24)34(35,36)37;/h5-9,12-18,26,30-31,38,41H,3-4,10-11,19-22H2,1-2H3,(H,39,42);1H/t30-,31+;/m0./s1
